US07592358B2
11.1a. 2-(2-hydroxyethoxy)-5-iodobenzaldehyde
Under an argon atmosphere 0.91 g (4.80 mmol) of CuI, 14.37 g (95.89 mmol) of NaI, and 6.13 mL (57.53 mmol) of N,N-dimethylethane-1,2-diamine were added to a solution of 11.75 g (47.945 mmol) of 5-bromo-2-(2-hydroxyethoxy)benzaldehyde in 50 mL of 1,4-dioxane and the mixture was stirred for 16 hours at 110° C. Another 6.13 mL (57.53 mmol) of N,N′-dimethylethane-1,2-diamine was added and the mixture was stirred for 8 hours at 110° C. The reaction mixture was cooled to RT, acidified with 12% aqueous HCl, and stirred for 30 minutes. The aqueous phase was exhaustively extracted with EtOAc, and the organic phase was washed with dilute aqueous ammonia solution and water, dried over magnesium sulfate, and evaporated down in vacuo. Yield: 9.78 g (52% of theoretical); C9H9IO3 (M=292.070); calc.: molpeak (M+H)+: 292; found: molpeak (M+H)+: 292.

reactant | NaI | 95.89 mmol, 14.37 g | [Na+].[I-]
reactant | N,N-dimethylethane-1,2-diamine | 57.53 mmol, 6.13 mL | CN(CCN)C | C4H12N2
reactant | 5-bromo-2-(2-hydroxyethoxy)benzaldehyde | 47.945 mmol, 11.75 g | BrC=1C=CC(=C(C=O)C1)OCCO | C9H9BrO3
reactant | N,N′-dimethylethane-1,2-diamine | 57.53 mmol, 6.13 mL | CNCCNC | C4H12N2
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 4.80 mmol, 0.91 g | [Cu]I
product | 2-(2-hydroxyethoxy)-5-iodobenzaldehyde | OCCOC1=C(C=O)C=C(C=C1)I | C9H9IO3
